US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1,2-Diphenylethylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (250 mg, 0.69 mmol) and 1,2-diphenylethylamine (0.40 mL, 2.1 mmol) provided, after treatment with HCl in Et2O, 95 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 1,2-diphenylethylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 1,2-diphenylethylamide | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=CC=C1)(C1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | C30H34N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1,2-Diphenylethylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=CC=C1)(C1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | InChI=1S/C30H34N2O5.ClH/c1-35-26-17-22(18-27(36-2)28(26)37-3)25(33)20-30(23-13-8-5-9-14-23,19-21-11-6-4-7-12-21)32-29(34)24-15-10-16-31-24;/h4-9,11-14,17-18,24,31H,10,15-16,19-20H2,1-3H3,(H,32,34);1H/t24-,30?;/m0./s1
